US05523280
12 g of 1-(2,2-difluoro-1,3-benzodioxol-4-yl)propanone are prepared by condensation of N,N-dimethylpropionamide with the lithiated anion of 2,2-difluoro-1,3-benzodioxole obtained according to the procedure described in patent EP 333658, are then dissolved in 14.6 ml (0.11 mol) of N,N-dimethylformamide dimethyl acetal and heated at 70° C. according to the procedure described in Example No. 1. 25 g (0.05 mol) of enaminone thus obtained are dissolved in 130 ml of acetic acid and then 3.3 ml (0.069 mol) of hydrazine hydrate are added. The crude product obtained is purified by trituration in pentane.

reactant | N,N-dimethylpropionamide | CN(C(CC)=O)C | C5H11NO
reactant | 2,2-difluoro-1,3-benzodioxole | FC1(OC2=C(O1)C=CC=C2)F | C7H4F2O2
reactant | N,N-dimethylformamide dimethyl acetal | 0.11 mol, 14.6 ml | COC(N(C)C)OC | C5H13NO2
product | 1-(2,2-difluoro-1,3-benzodioxol-4-yl)propanone | 12 g | FC1(OC2=C(O1)C=CC=C2CC(C)=O)F | C10H8F2O3
